US06809199B2
Step C: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(1-methylpyrrolidin-3-yl)oxy]-3,4-dihydroquinolin-2(1H)-one
To a solution of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(pyrrolidin-3-yloxy)-3,4-dihydroquinolin-2(1H)-one (0.046 g) in 5 mL of methanol was added formaldehyde (50 μL) and sodium cyanoborohydride (0.012 g). The reaction mixture was stirred for 48 h, then washed with 1N HCl (5 mL), extracted with 5×5 mL of ethyl acetate, washed with brine (5 mL), dried with sodium sulfate, and concentrated. Purification was achieved by preparative thin layer chromatography eluting with 10% ethanol/dichloromethane to yield product. Mass spectrum (ESI) 501.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 7.50-7.48 (m, 3H), 7.36-7.30 (m, 4H) 6.38 (s, 1H), 5.85 (s, 1H), 4.66 (m, 1H), 2.87-2.65 (m, 8H), 2.36 (s, 3H), 2.18-2.15 m, 1H), 1.94-1.91 (m, 1H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-(pyrrolidin-3-yloxy)-3,4-dihydroquinolin-2(1H)-one | 0.046 g | ClC1=C(C=CC=C1)C1=C2CCC(N(C2=CC(=C1)OC1CNCC1)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N2O2
reactant | formaldehyde | 50 μL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.012 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(1-methylpyrrolidin-3-yl)oxy]-3,4-dihydroquinolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CCC(N(C2=CC(=C1)OC1CN(CC1)C)C1=C(C=CC=C1Cl)Cl)=O | C26H23Cl3N2O2
